US07253286B2
N6-Methyl-4-(4-chloro-3-nitrophenoxy)-7-methoxy-6-quinolinecarboxamide
After dissolving 4-(4-chloro-3-nitrophenoxy)-7-methoxy-6-quinolinecarboxylic acid (897 mg, 2.39 mmol) in dimethylformamide (10 ml) under a nitrogen atmosphere, a 40% methylamine-methanol solution (2.0 ml), triethylamine (1.0 ml) and (1H-1,2,3-benzotriazol-1-yloxy)(tri(dimethylamino)) phosphonium hexafluorophosphate (1.27 g, 2.87 mmol) were added in that order at room temperature and the mixture was stirred for 4 hours. The reaction solution was distributed between ethyl acetate and water, and the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. The solvent was distilled off, the residue was suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (928 mg, quantitative) as white crystals.

reactant | 4-(4-chloro-3-nitrophenoxy)-7-methoxy-6-quinolinecarboxylic acid | 2.39 mmol, 897 mg | ClC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)O)OC)C=C1)[N+](=O)[O-] | C17H11ClN2O6
reactant | methylamine methanol | 2.0 ml | CN.CO
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)(tri(dimethylamino)) phosphonium hexafluorophosphate | 2.87 mmol, 1.27 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N6-Methyl-4-(4-chloro-3-nitrophenoxy)-7-methoxy-6-quinolinecarboxamide | 928 mg | CNC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C18H14ClN3O5
